US20010047014A1
To a solution of 37.6 g (116 mmol) of (1R,6S) and (1S,6R)-6-benzyl-7-oxa-3-aza-bicyclo[4.1.0]heptane-3-carboxylic acid benzyl ester in 170 ml THF were added 37 ml H2SO4 (10%). The reaction mixture was stirred for 16 hours and then concentrated under reduced pressure. The residue was dissolved in ethyl acetate and extracted with sat. NaHCO3. The aqueous phase was extracted twice with ethyl acetate and the combined organic layers were washed with sat. NaHCO3, dried over MgSO4 and the solvent was removed under reduced pressure to give 40.8 g (100%, purity ˜95%) of crude (3R,4R) and (3S,4S)-4-benzyl-3,4-dihydroxy-piperidine-1-carboxylic acid benzyl ester.

reactant | (1S,6R)-6-benzyl-7-oxa-3-aza-bicyclo[4.1.0]heptane-3-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]2O[C@@]2(CC1)CC1=CC=CC=C1 | C20H21NO3
reactant | H2SO4 | 37 ml | OS(=O)(=O)O | H2O4S
solvent | THF | 170 ml | C1CCOC1 | C4H8O
product | (3S,4S)-4-benzyl-3,4-dihydroxy-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@](CC1)(O)CC1=CC=CC=C1)O | C20H23NO4
